US04618677
1.6 g of phenyl isocyanate were added to a solution of 4.0 g of 3-(4-benzylpiperazin-1-yl)propanethiol dihydrochloride and 2.6 g of triethylamine in 50 ml of methylene chloride. The mixture was refluxed for four hours, washed with water and dried (sodium sulfate). Precipitation of the salt with ethereal hydrochloric acid gave 1.2 g (20% of theory) of N-phenyl-S-[3-(4-benzylpiperazin-1-yl)-propyl]thiocarbamate dihydrochloride monohydrate as a white crystalline solid, M.p. 216°-219° C.

reactant | phenyl isocyanate | 1.6 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-(4-benzylpiperazin-1-yl)propanethiol dihydrochloride | 4.0 g | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CCCS
reactant | triethylamine | 2.6 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-phenyl-S-[3-(4-benzylpiperazin-1-yl)-propyl]thiocarbamate dihydrochloride monohydrate | 1.2 g, 20% | O.Cl.Cl.C1(=CC=CC=C1)NC(O)=SCCCN1CCN(CC1)CC1=CC=CC=C1 | InChI=1S/C21H29N3OS.2ClH.H2O/c25-21(22-20-10-5-2-6-11-20)26-17-7-12-23-13-15-24(16-14-23)18-19-8-3-1-4-9-19;;;/h1-6,8-11,22,25-26H,7,12-18H2;2*1H;1H2
